US05763437
To a mixture of 2-dimethoxymethyl-5-methylthiophene (3.44 g, 20 mmol) and N-bromosuccinimide (4.63 g, 26 mmol) in carbon tetrachloride (50 ml) was added a catalytic amount of benzoylperoxide. The mixture was refluxed for 1 hour. Undissolved materials were filtered off. The filtrate and the washings were combined and evaporated in vacuo to give 2-methoxycarbonyl-5-bromomethyl-thiophene as a yellow oil (4.65 g}, which was used in a following reaction without further purification.

reactant | 2-dimethoxymethyl-5-methylthiophene | 20 mmol, 3.44 g | COC(C=1SC(=CC1)C)OC | C8H12O2S
reactant | N-bromosuccinimide | 26 mmol, 4.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-methoxycarbonyl-5-bromomethyl-thiophene | COC(=O)C=1SC(=CC1)CBr | C7H7BrO2S
